US08383616B2
A suspension of 5-(2,4-bis-benzyloxy-5-chloro-phenyl)-isoxazole-3-carboxylic acid ethylamide (1 g, 2.2 mmol) in Ac2O (20 ml) was cooled to 0° C. and HNO3 (0.26 ml, 4.3 mmol) was added dropwise under stirring, the temperature being maintained between 0-5° C. After the addition was complete, the mixture was stirred for 70 h at 5-10° C. and then poured into ice and extracted with DCM (3×40 ml). The extract was dried and concentrated under vacuo. The yellow solid obtained was triturated with Et2O and filtered to give 5-[2,4-bis(benzyloxy)-5-chlorophenyl]-N-ethyl-4-nitroisoxazole-3-carboxamide (810 mg, 73%).

reactant | 5-(2,4-bis-benzyloxy-5-chloro-phenyl)-isoxazole-3-carboxylic acid ethylamide | 2.2 mmol, 1 g | C(C)NC(=O)C1=NOC(=C1)C1=C(C=C(C(=C1)Cl)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C26H23ClN2O4
reactant | HNO3 | 4.3 mmol, 0.26 ml | [N+](=O)(O)[O-] | HNO3
solvent | Ac2O | 20 ml | CC(=O)OC(=O)C | C4H6O3
product | 5-[2,4-bis(benzyloxy)-5-chlorophenyl]-N-ethyl-4-nitroisoxazole-3-carboxamide | 810 mg, 73% | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C1=C(C(=NO1)C(=O)NCC)[N+](=O)[O-] | C26H22ClN3O6
